US05892039
Preparation of (+,-)-[3,5-bis(trifluoromethyl)benzoyl]-3-(3,4-dichlorophenyl)piperazine
To a cooled solution of CH2Cl2 (103 mL) containing 2-(3,4-dichlorophenyl)piperazine (1.15 g 5.0 mmol), 3,5-bis-(trifluoromethyl)benzoic acid (1.34 g, 5.09 mmol), and N-hydroxybenzotriazole monohydrate (0.688 g, 5.09 mmol) at -20° C. were added Et3N (0.711 mL 5.09 mmol) and N,N-dimethylaminopropyl-ethylcarbodimide (DEC) (0.967 g, 5.09 mmol) under nitrogen. The reaction was kept at -20° C. for an hour and gradually warmed to RT overnight. After stirring 20 h, the reaction was complete and CH2Cl2 (200 mL) was added. The organic solution was washed with 5% NaHCO3 (80 mL) and brine (80 mL, 2×), dried over MgSO4, filtered and concentrated under vacuum to give 2.1 g of crude product. The product was purified by flash chromatography on flash grade silica gel (120 g), eluting with 2% NH3 -MeOH/CH2Cl2 to give a foam solid (1.25 g, 2.65 mmol, 53%). m.p. 50°-53° C.; FAB MS [M+1]+ 470.9;

reactant | 2-(3,4-dichlorophenyl)piperazine | 5.0 mmol, 1.15 g | ClC=1C=C(C=CC1Cl)C1NCCNC1 | C10H12Cl2N2
reactant | 3,5-bis-(trifluoromethyl)benzoic acid | 5.09 mmol, 1.34 g | FC(C=1C=C(C(=O)O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O2
reactant | N-hydroxybenzotriazole monohydrate | 5.09 mmol, 0.688 g | O.ON1N=NC2=C1C=CC=C2
reactant | Et3N | 5.09 mmol, 0.711 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 103 mL | C(Cl)Cl | CH2Cl2
product | (+,-)-[3,5-bis(trifluoromethyl)benzoyl]-3-(3,4-dichlorophenyl)piperazine | 2.65 mmol, 1.25 g, 53% | FC(C=1C=C(C(=O)N2CC(NCC2)C2=CC(=C(C=C2)Cl)Cl)C=C(C1)C(F)(F)F)(F)F | C19H14Cl2F6N2O
